US04604390
The 2-(5'-chloro-2-nitrophenoxy)benzoic acid was prepared as follows: Crude 2-(5-chloro-2-nitrophenoxy)benzaldehyde was heated under reflux with 200 ml of diethylether, 120 ml of water, 41.1 g of Na2Cr2O7 ·2H2O and 6.0 g of a 40% tetra-n-butylammonium hydroxide solution, and to it was added 63 ml of 9M H2SO4 over three hours. Heating was continued for an additional two hours, and the aqueous layer was extracted with ether and evaporated to dryness to provide the product.

reactant | 2-(5-chloro-2-nitrophenoxy)benzaldehyde | ClC=1C=CC(=C(OC2=C(C=O)C=CC=C2)C1)[N+](=O)[O-] | C13H8ClNO4
reactant | diethylether | 200 ml | C(C)OCC | C4H10O
reactant | tetra-n-butylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | H2SO4 | 9M, 63 ml | OS(=O)(=O)O | H2O4S
solvent | water | 120 ml | O | H2O
product | 2-(5'-chloro-2-nitrophenoxy)benzoic acid | ClC=1C=CC(=C(OC2=C(C(=O)O)C=CC=C2)C1)[N+](=O)[O-] | C13H8ClNO5
